US07144899B2
To a stirred solution of 3-[2-(azidomethyl)-4-chlorophenyl]-4-chloro-1,2,5-thiadiazole (0.205 g, 0.72 mmol) and water (0.01 mL, 0.72 mmol) in THF (1.5 mL) was added triphenyl phosphine (0.188 g, 0.72 mmol). The solution was refluxed 1 h then stirred at ambient temperature for 16 h. The solution was reduced in vacuo and the residue was dissolved in MeOH. KOH (1 pellet) was added and the solution was refluxed 5 min. The solution was reduced in vacuo and partitioned between 1 M HCl and EtOAc. The aqueous phase was separated, basified with 1 M NaOH and extracted into ether. The organic phase was separated, dried (Na2SO4) and reduced in vacuo. The residue was purified by flash chromatography on silica (eluting with EtOAc/hexanes gradient, 5–10% EtOAc followed by 0.9% MeOH/0.1% NH4OH/chloroform). 1-[5-Chloro-2-(4-chloro-1,2,5-thiadiazole-3-yl)phenyl]methanamine was isolated as a yellow oil. MS m/z=260.5.

reactant | 3-[2-(azidomethyl)-4-chlorophenyl]-4-chloro-1,2,5-thiadiazole | 0.72 mmol, 0.205 g | N(=[N+]=[N-])CC1=C(C=CC(=C1)Cl)C1=NSN=C1Cl | C9H5Cl2N5S
reactant | water | 0.72 mmol, 0.01 mL | O | H2O
reactant | triphenyl phosphine | 0.72 mmol, 0.188 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | KOH | [OH-].[K+]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | 1-[5-Chloro-2-(4-chloro-1,2,5-thiadiazole-3-yl)phenyl]methanamine | ClC=1C=CC(=C(C1)CN)C1=NSN=C1Cl | C9H7Cl2N3S
